US07432260B2
3-[4-(4-Methyl-2-morpholin-4-yl-thiazol-5-yl)-pyrimidin-2-ylamino]-phenol [55].
A solution of morpholine-4-carbonitrile (10 g, 89.19 mmol) in EtOH (65 mL) was cooled on an ice bath. Anhydrous NH3 was bubbled through the solution for 5 min, followed by hydrogen sulfide. Soon after the introduction of H2S a white precipitate was observed. After the addition of both gases for 45 min NH3 addition was stopped and H2S continued for a further 15 minutes. The resulting precipitate was collected, washed with cold water, MeOH and dried under high vacuum to afford morpholine-4-carbothioic acid amide (12.83 g). Mp. 173-174° C. 1H-NMR (DMSO-D6) δ: 3.54 (t, 4H, J=4.9 Hz, CH2), 3.70 (m, 4H, CH2), 7.46 (brs, 2H, NH2). This was converted first to 1-(4-methyl-2-morpholin-4-yl-thiazol-5-yl)-ethanone with 3-bromo-pentane-2,4-dione, then with dimethoxymethyl-dimethyl-amine to 3-dimethylamino-1-(4-methyl-2-morpholin-4-yl-thiazol-5-yl)-propenone in the usual manner. The latter enaminone was condensed with N-(3-hydroxy-phenyl)-guanidine nitrate to afford the title compound as a pale solid. Mp. 227-229 C. 1H-NMR (DMSO-D6) δ: 2.49 (s, 3H, CH3), 3.46 (t, 4H, J=4.4 Hz, CH2), 3.71 (t, 4H, J=4.4 Hz, pyrimidinyl-H), 6.34 (d, 1H, J=8.8 Hz, Ph-H), 6.91 (d, 1H, J=5.4 Hz, pyrimidinyl-H), 7.03 (t, 1H, J=7.8 Hz, Ph-H), 7.20-7.22 (m, 2H, Ph-H), 8.34 (d, 1H, J=5.4 Hz, pyrimidinyl-H), 9.17 (s, 1H, OH/NH), 9.32 (s, 1H, NH/OH). MS (ESI+) m/z 370.10 [M+H]+ (C18H19N5O2S requires 369.44).

reactant | 1-(4-methyl-2-morpholin-4-yl-thiazol-5-yl)-ethanone | CC=1N=C(SC1C(C)=O)N1CCOCC1 | C10H14N2O2S
reactant | 3-bromo-pentane-2,4-dione | BrC(C(C)=O)C(C)=O | C5H7BrO2
reactant | dimethoxymethyl-dimethyl-amine | COC(OC)N(C)C | C5H13NO2
reactant | N-(3-hydroxy-phenyl)-guanidine nitrate | [N+](=O)(O)[O-].OC=1C=C(C=CC1)NC(=N)N
product | 3-[4-(4-Methyl-2-morpholin-4-yl-thiazol-5-yl)-pyrimidin-2-ylamino]-phenol | CC=1N=C(SC1C1=NC(=NC=C1)NC=1C=C(C=CC1)O)N1CCOCC1 | C18H19N5O2S
